US06630600B1
3-(3-Benzyloxyphenyl)-2-ethoxyacrylic acid ethyl ester (10.4 g; 31.8 mmole) was hydrogenated at atmospheric pressure in ethyl acetate using Pd/C (dry, 10%) as catalyst. The reaction mixture was filtered through celite and the solvent was evaporated in vacuo. The starting material was not completely consumed, therefor the hydrogenation was repeated to give 7 g (yield 92%) of 2-ethoxy-3-(3-hydroxyphenyl)propanoic acid ethyl ester.

reactant | 3-(3-Benzyloxyphenyl)-2-ethoxyacrylic acid ethyl ester | 31.8 mmole, 10.4 g | C(C)OC(C(=CC1=CC(=CC=C1)OCC1=CC=CC=C1)OCC)=O | C20H22O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-ethoxy-3-(3-hydroxyphenyl)propanoic acid ethyl ester | 7 g, yield 92% | C(C)OC(C(CC1=CC(=CC=C1)O)OCC)=O | C13H18O4
